US07799787B2
Step 1: 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine
A mixture of 5-nitro-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridine (1.6 g, 4.4 mmol) and 10% Pd/C (300 mg) in EtOAc (100 mL) was hydrogenated at 50 psi overnight. The catalyst was filtered off through celite. The filtrate was removed in vacuo to give the title compound as a light brown gum.

reactant | 5-nitro-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridine | 4.4 mmol, 1.6 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H16F3N3O3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridin-3-amine | FC(C1=C(OC2CCN(CC2)C2=CC=C(C=N2)N)C=CC=C1)(F)F | C17H18F3N3O
